.SUBCKT DTWIO33_TWIHS_M1_PAD_52_MIN IN EN OUT VCC VEE
* Component:    SAME54_TQFP100
* Manufacturer: MICROCHIP Technology
* Model:        dtwio33_twihs_M1_pad
* Pin:          52
* Requires external VCC= 2.85
* Requires external VEE= 0
C1T TRIG 0 .1P
* Polarity = Inverting
R1T VTPWR TRIG {(V(IN)>=1.08)*1E12+1}
R2T TRIG 0 {(V(IN)<2.52)*1E12+1}
V2T VTPWR 0 2.772
C_COMP DIE VEE 2.74715e-012
R_COMP DIE VEE 1e+011
C1TE EN1 VEE .1P
* Enable = ACTIVE-LOW
R1TE VTPWR EN1 {(V(EN)>=1.088)*1E12+1}
R2TE EN1 0 {(V(EN)<2.52)*1E12+1}
G1 DIE VEE VALUE = {(V(IPD)*(V(XVKDR.VKDR)*(V(TRIG)>=1.26)+V(XVKDF.VKDF)*(V(TRIG)<1.26)))*(V(EN1)>=1.26)}
G2 DIE VCC VALUE = {(V(IPU)*(V(XVKUR.VKUR)*(V(TRIG)>=1.26)+V(XVKUF.VKUF)*(V(TRIG)<1.26)))*(V(EN1)>=1.26)}
L_PIN DIE 12 7.06e-009
R_PIN OUT 12 0.09117
C_PIN 0 OUT 1.28e-012
*** COMMON TO ALL PINS IN THE PACKAGE
XE4 IPU 0 VCC DIE DTWIO33_TWIHS_M1_PAD_MIN_PULLUP
XE5 IPD 0 DIE VEE DTWIO33_TWIHS_M1_PAD_MIN_PULLDOWN
XGC DIE VEE DIE VEE DTWIO33_TWIHS_M1_PAD_MIN_GND_CLAMP
XPC DIE VCC VCC DIE DTWIO33_TWIHS_M1_PAD_MIN_POWER_CLAMP
*** PWLs
XVKUR TRIG 10 IN EN1 DTWIO33_TWIHS_M1_PAD_MIN_VKUR
XVKDR TRIG 14 IN EN1 DTWIO33_TWIHS_M1_PAD_MIN_VKDR
XVKUF TRIG 11 IN EN1 DTWIO33_TWIHS_M1_PAD_MIN_VKUF
XVKDF TRIG 15 IN EN1 DTWIO33_TWIHS_M1_PAD_MIN_VKDF
.ENDS DTWIO33_TWIHS_M1_PAD_52_MIN
